US04997942
0.5 g of 2-(3-fluoro-4-hydroxyphenyl)-5-(4-heptylphenyl)pyrimidine and 0.185 g of potassium-tertbutoxide were dissolved in 20 ml of dimethyl sulfoxide. The resulting solution was stirred at room temperature for 30 minutes and then 0.295 of n-hexyl bromide was added dropwise thereto. After the completion of the addition, the mixture was stirred at room temperature for six hours. Then 100 ml of ethyl acetate and 100 ml of water were added to the reaction mixture and the organic layer was repeatedly washed with water until the pH value of the aqueous layer became neutral. Subsequently the organic layer was separated and dried over anhydrous sodium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (developing solvent: toluene) and then recrystallized from ethanol. Thus 0.467 g of 2-(3-fluoro-4-hexyloxyphenyl)-5-(4-heptylphenyl)pyrimidine was obtained. Yield: 74%.

reactant | 2-(3-fluoro-4-hydroxyphenyl)-5-(4-heptylphenyl)pyrimidine | 0.5 g | FC=1C=C(C=CC1O)C1=NC=C(C=N1)C1=CC=C(C=C1)CCCCCCC | C23H25FN2O
reactant | potassium tertbutoxide | 0.185 g | [K].CC(C)([O-])C
reactant | n-hexyl bromide | C(CCCCC)Br | C6H13Br
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | 2-(3-fluoro-4-hexyloxyphenyl)-5-(4-heptylphenyl)pyrimidine | 0.467 g, Yield: 74% | FC=1C=C(C=CC1OCCCCCC)C1=NC=C(C=N1)C1=CC=C(C=C1)CCCCCCC | C29H37FN2O
